US05663440
In a 2-liter three-necked flask equipped with a stirring device and a nitrogen substituting device, 5 g of a Pd-C catalyst (a 5% product, containing 55.9% of water) and a solution of 100.9 g of 1,6-diphenylhexane-1,6-dione in 400 milliliters of tetrahydrofuran and 400 milliliters of denatured ethanol as well as 5 milliliters of 6N-hydrochloric acid were introduced, stirred at a normal pressure and contacted with hydrogen gas. After absorption of hydrogen was stopped, the catalyst was filtered off and the solution was concentrated. The concentrate was dissolved in ethyl acetate, washed with a dilute aqueous solution of sodium hydrogencarbonate and water, and thereafter dried with anhydrous sodium sulfate. After removing off the solvent by a rotary evaporator, a distillation under a decreased pressure was carried out, to obtain 85.3 g of 1,6-diphenylhexane as colorless liquid.

reactant | water | O | H2O
reactant | 1,6-diphenylhexane-1,6-dione | 100.9 g | C1(=CC=CC=C1)C(CCCCC(=O)C1=CC=CC=C1)=O | C18H18O2
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd-C | 5 g | [Pd] | Pd
solvent | tetrahydrofuran | 400 milliliters | O1CCCC1 | C4H8O
solvent | ethanol | 400 milliliters | C(C)O | C2H6O
product | 1,6-diphenylhexane | 85.3 g | C1(=CC=CC=C1)CCCCCCC1=CC=CC=C1 | C18H22
